US04925589
90.1 g of acrylic acid (1.25 mol), 29.8 g of 4-(6-hydroxyhexyloxy)benzoic acid, 4.5 g of hydroquinone, 4.5 g of p-toluenesulfonic acid and 300 ml of chloroform were placed in a sulfonation flask having a stirrer, water separator and reflux condenser. The mixture was heated to reflux for about 20 hours and then treated with a solution of 3.25 g of sodium acetate trihydrate in 10 ml of water. The chloroform and the excess acrylic acid were subsequently distilled off on a rotary evaporator. The residue was taken up in 1.5 1 of chloroform. The mixture was stirred for 2 hours and then filtered. The filtrate was washed three times with 200 ml of water each time, dried over sodium sulfate, filtered and concentrated. The residue was dissolved in 500 ml of toluene and the solution was again filtered. The filtrate was cooled to 4° C. for 12 hours and then to -20° C. for a further 12 hours. The crystalline product obtained was removed by filtration under suction, washed twice with cold toluene and again recrystallized from 400 ml of toluene. After drying at 60° C./40 mbar there were obtained 29.2 g of 4-(6-acrylyloxyhexyloxy)benzoic acid with m.p. (C-N) 92° C. and cl.p. (N-I) 110° C.

reactant | acrylic acid | 1.25 mol, 90.1 g | C(C=C)(=O)O | C3H4O2
reactant | 4-(6-hydroxyhexyloxy)benzoic acid | 29.8 g | OCCCCCCOC1=CC=C(C(=O)O)C=C1 | C13H18O4
reactant | hydroquinone | 4.5 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | p-toluenesulfonic acid | 4.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium acetate trihydrate | 3.25 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(6-acrylyloxyhexyloxy)benzoic acid | 29.2 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C(=O)O)C=C1 | C16H20O5
